US07232902B2
i) 4-(4-Trifluoromethylphenyl)benzaldehyde
5% Palladium on carbon, type 58, 50% paste (0.94 kg, 0.22 moles Pd) was added to a mixture of 4-bromobenzaldehyde (3.34 kg, 17.69 moles), 4-trifluoromethylphenyl boronic acid (3.50 kg, 18.06 moles) and sodium carbonate (3.75 kg, 35.38 moles) in process water (36 L). Isopropanol (36 L) was added and the resultant mixture heated to reflux (80-83° C.) for ca. 2.5 hours. The catalyst was removed from the hot suspension by filtration through celite (1.5 kg). The celite bed was washed with a hot (ca. 70° C.) isopropanol (10 L)/water (10 L) mixture then the combined filtrate and wash were cooled to 23° C., process water (18 L) was added and the mixture stirred at 20-25° C. for ca. 17.5 hours. The solid was collected by filtration, washed with process water (1×27 L, 2×18 L) then dried at 39° C. for 24 hours to give the title compound (3.78 kg, 85%) as a white solid. 1H NMR (CDCl3) δ 7.75 (4H, s), 7.78 (2H, d) 7.98 (2H, d), 10.10 (1H, s)

reactant | 4-bromobenzaldehyde | 17.69 moles, 3.34 kg | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 4-trifluoromethylphenyl boronic acid | 18.06 moles, 3.50 kg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 35.38 moles, 3.75 kg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 36 L | O | H2O
catalyst | Palladium on carbon | [Pd] | Pd
catalyst | Pd | 0.22 moles, 0.94 kg | [Pd] | Pd
solvent | Isopropanol | 36 L | C(C)(C)O | C3H8O
product | 4-(4-Trifluoromethylphenyl)benzaldehyde | 3.78 kg, 85% | FC(C1=CC=C(C=C1)C1=CC=C(C=O)C=C1)(F)F | C14H9F3O
